US04048330
2-Acetylnaphthalene is prepared by treating 2-(1'-bromoethyl)naphthalene, prepared as described above, wtih sodium acetate in acetic acid to afford 2-(1'-acetonyethyl)naphthalene which upon base hydrolysis furnishes the 2-(1'-hydroxyethyl)naphthalene. The latter is oxidized with an equivalent of chromium trioxide in glacial acetic acid, or 8N sulfuric acid and acetone to furnish 2-acetylnaphthalene. 2-Carboxynaphthalene is prepared from 2-acetylnaphthalene by treating the latter with aqueous sodium hypochlorite. The 2-carboxynaphthalene is treated with diborane in an ether, such as diglyme (diethyleneglycol dimethyl ether), to yield 2-hydroxymethylnaphthalene.

reactant | 2-(1'-hydroxyethyl)naphthalene | OC(C)C1=CC2=CC=CC=C2C=C1 | C12H12O
reactant | sulfuric acid | 8N | S(O)(O)(=O)=O | H2O4S
reactant | acetone | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 2-acetylnaphthalene | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
